US09376398B2
(ii) 2-Amino-5-(4-chloromethyl-2-methoxybenzyl)-6-methylpyrimidin-4-yl 2,4,6-triisopropylbenzenesulfonate
To a solution of 2-amino-5-(4-hydroxymethyl-2-methoxybenzyl)-6-methylpyrimidin-4-ol (5.0 g) and N,N-diisopropylethylamine (11.7 g) in tetrahydrofuran (50 g), 2,4,6-triisopropylbenzenesulfonyl chloride (8.3 g) was added and refluxed for 10 h. After cooling to RT, lithium chloride (2.3 g) was added to the reaction mixture and stirred for 0.5 h, methanesulfonyl chloride (4.2 g) was added over 0.25 h dropwise and the reaction mixture was stirred for 4 h at RT. To the reaction mixture, water (25 g) was added and extracted with ethyl acetate (25 g). The organic layer was washed with water (25 mL) and concentrated in vacuo. To the residue, toluene (20 g) was added and concentrated on vacuo to obtain a light brown solid. The solid was precipitated with toluene (30 g) to obtain sub-title compound (6.8 g). 1H-NMR (300 MHz, CDCl3) δ 7.17 (2H, s), 6.90-6.82 (3H, m), 5.16 (2H, brs), 4.55 (2H, s), 4.10 (2H, septet, J=6.8 Hz), 3.82 (3H, s), 3.81 (2H, s), 2.91 (1H, septet, J=6.8 Hz), 2.32 (3H, s), 1.25 (6H, d, J=7.2 Hz), 1.19 (12H, d, J=6.8 Hz)

reactant | 2-amino-5-(4-hydroxymethyl-2-methoxybenzyl)-6-methylpyrimidin-4-ol | 5.0 g | NC1=NC(=C(C(=N1)O)CC1=C(C=C(C=C1)CO)OC)C | C14H17N3O3
reactant | N,N-diisopropylethylamine | 11.7 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 8.3 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | lithium chloride | 2.3 g | [Cl-].[Li+]
reactant | methanesulfonyl chloride | 4.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 50 g | O1CCCC1 | C4H8O
solvent | water | 25 g | O | H2O
product | 2-Amino-5-(4-chloromethyl-2-methoxybenzyl)-6-methylpyrimidin-4-yl 2,4,6-triisopropylbenzenesulfonate | 6.8 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)OC1=NC(=NC(=C1CC1=C(C=C(C=C1)CCl)OC)C)N | C29H38ClN3O4S
